Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
right hemibody numbness/tingling 
 
Major Surgical or Invasive Procedure:
N/A 

 
History of Present Illness:
The patient is a ___ woman with history of hypertension
and prior stroke at the age of ___ with unclear etiology with
residual left lower face numbness who presents with acute onset
right arm numbness and right hemibody weakness.
Briefly, patient reports she was at work when she noticed that
her right arm became acutely numb and she also experienced mild
right hemibody weakness.  No other symptoms no nausea no emesis
no gait difficulty no headache.  She was still able to walk. 
Left work and went to a bar to get a drink then home. Then went
to a friend's house who told her to go to the emergency room at
___.  There she was found to be hypoglycemic to 
73
and was started on D5 normal saline.  Her ___ stroke scale of 2
for right lower extremity drift and decreased sensation in the
right upper extremity.  CT head was negative. she was 
transferred
here for further workup.  Upon arrival to ___ blood pressure was 166/119 Heart rate 90 and
patient continued to have some right upper extremity numbness
although she said it was improved and no longer complained of
weakness.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
none 
 
Social History:
___
Family History:
Family history of stroke. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTAB, no increased work of breathing
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Decreased sensation to light touch in left V3 chronic.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

- Motor - Normal bulk and tone. No drift. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5    

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally. 

-Sensory: Decreased sensation in right upper extremity from
shoulder to fingertips.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE PHYSICAL EXAM
Vitals within normal limits 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTAB, no increased work of breathing
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Decreased sensation to light touch in left V3, which patient 
says is chronic.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

- Motor - Normal bulk and tone. No drift. Very mild (4+/5) right 
finger extensor weakness. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5    

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally. 

-Sensory: Decreased sensation in right upper extremity from
shoulder to fingertips circumferentially to pinprick and light 
touch, which is 80% of normal.  

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
LABORATORY STUDIES 
___ 10:20AM BLOOD WBC-4.8 RBC-3.68* Hgb-12.0 Hct-35.6 
MCV-97 MCH-32.6* MCHC-33.7 RDW-12.5 RDWSD-44.7 Plt ___
___ 07:55AM BLOOD ProtCFn-125 ProtSFn-105
___ 10:20AM BLOOD Glucose-84 UreaN-6 Creat-0.5 Na-136 K-3.5 
Cl-98 HCO3-23 AnGap-19
___ 11:05PM BLOOD ALT-14 AST-30 AlkPhos-56 TotBili-0.2
___ 11:05PM BLOOD Lipase-28
___ 11:05PM BLOOD cTropnT-<0.01
___ 10:20AM BLOOD Phos-3.2 Mg-1.6 
___ 03:27AM BLOOD %HbA1c-5.0 eAG-97
___ 11:05PM BLOOD Triglyc-104 HDL-93
___ 07:55AM BLOOD b2micro-0.9
___ 11:05PM BLOOD HCG-<5
___ 07:55AM BLOOD Free T4-1.3
___ 10:20AM BLOOD TSH-2.1
___:05PM BLOOD Triglyc-104 HDL-93
___ 11:05PM BLOOD ASA-NEG Ethanol-86* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

PENDING LABS:
___ 07:55AM BLOOD Lupus anticoagulant-PND
___ 10:20AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND
___ 10:20AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
___ 07:55AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
___ LDL pending 

IMAGING STUDIES:
MRI head w/o contrast ___:
1. No new infarction or intracranial hemorrhage. 
2. Chronic left parietal infarct. 
  

CTA Head/Neck
1. Chronic left parietal infarct. 
2. No acute vascular territorial infarct or hemorrhage. 
3. Patent intracranial arterial vasculature without significant 
stenosis, 
occlusion, or aneurysm. 
4. Patent cervical arterial vasculature without significant 
stenosis, 
occlusion, or dissection. 
5. Multiple dental caries with periapical lucency specifically 
surrounding 
left mandibular molar. 

 
Brief Hospital Course:
___ year old woman with past medical history of stroke at the age 
of ___ (unclear etiology, with residual left face 
numbness/weakness) and HTN who presented with a 1 day history of 
right arm numbness and right hemibody weakness. Initially, this 
was in the setting of borderline low glucose levels (low ___ 
but the symptoms did not improve with correction of sugar. 
Neurological exam significant for persistent right arm numbness 
and mild right finger extensor weakness, although improved on 
repeat assessment. Given her history of prior stroke, the 
patient was at risk for recurrent stroke. She had an MRI brain 
w/o contrast which revealed new infarction or intracranial 
hemorrhage, in addition to her chronic left parietal infarct. 
The initial hypercoagulable workup was sent (lupus 
anticoagulant, beta 2 glycoprotein, anti cardiolipin 
antibodies), and cholesterol panel which was pending at time of 
discharge. His thyroid studies and hemoglobin A1c were within 
normal limits. 

Etiology for symptoms was unclear- differential includes 
atypical migraine, seizure and recrudescence of prior deficits 
in the setting of recent stressors. 

The patient strongly requested to leave the hospital early prior 
to obtaining the results of the remainder of her labs, which we 
said was reasonable as long as she obtains close neurology 
follow up.

******************
TRANSITIONAL ISSUES:
- Will need close outpatient neurology follow up. Provided with 
contact information for neurology clinic. We will also work to 
obtain an expedited appointment for the patient tomorrow during 
business hours.
- Will need outpatient routine EEG 
- Will need outpatient genetic hypercoagulable testing, 
including factor V leiden, prothrombin gene mutation. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right hemibody parasthesias 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of right sided weakness 
and changes in sensation. Given that you had a stroke in the 
past and a history of high blood pressure, you were at risk of 
stroke. We admitted you to the hospital, and you obtained an MRI 
of your brain which did not reveal any signs of stroke. The 
cause of your symptoms is unclear at this time. Possibilities 
include an atypical migraine, seizure, or a stress reaction.

Moving forward, it will be important for you to follow up with a 
neurologist closely. You also will need to obtain a brain wave 
test (EEG) to see if you are prone to having seizures. You will 
also need to complete a number of lab tests to see if you have 
any underlying condition(s) that place you at high risk for 
bleeding.

It was a pleasure taking care of you.

Sincerely,
your ___ team 
 
Followup Instructions:
___